US05177087
1-Acetyl-4-[2-(4-dimethylaminobenzoyl)ethyl]piperidine
A mixture consisting of 3.2 g of 1-acetyl-4-[2-(4-fluorobenzoyl)ethyl]piperidine and 10 ml of 50% aqueous dimethylamine solution was heated at 100° C. with stirring for 6 hours and then worked up in the same manner as Example 37 to give 1.6 g of colorless crystals melting at 158°-160° C.

reactant | 1-acetyl-4-[2-(4-fluorobenzoyl)ethyl]piperidine | 3.2 g | C(C)(=O)N1CCC(CC1)CCC(C1=CC=C(C=C1)F)=O | C16H20FNO2
reactant | dimethylamine | 10 ml | CNC | C2H7N
product | 1-Acetyl-4-[2-(4-dimethylaminobenzoyl)ethyl]piperidine | 1.6 g | C(C)(=O)N1CCC(CC1)CCC(C1=CC=C(C=C1)N(C)C)=O | C18H26N2O2
